US09028976B2
An amount of 6.8 g (20 mmol) of 3,4-dibromoacenaphthenequinone, 6.1 g (50 mmol) of phenylboronic acid, and 1 g of tetrakis triphenylphosphine palladium as catalysis were dissolved in a mixed solvent of 80 ml of toluene and 20 ml of ethanol. Then, 40 ml of 2M sodium carbonate solution was added and allowed to react at 90° C. for 12 hours. After the reaction was completed, the organic layer was separated and purified by column chromatography to obtain 3.85 g (11.5 mmol) of 3,4-diphenylacenaphthenequinone. The yield was 57.5%.

reactant | 3,4-dibromoacenaphthenequinone | 20 mmol, 6.8 g | BrC1=C2C(C(C=3C=CC=C(C=C1Br)C32)=O)=O | C12H4Br2O2
reactant | phenylboronic acid | 50 mmol, 6.1 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2M, 40 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3,4-diphenylacenaphthenequinone | 11.5 mmol, 3.85 g, yield was 57.5% | C1(=CC=CC=C1)C1=C2C(C(C=3C=CC=C(C=C1C1=CC=CC=C1)C32)=O)=O | C24H14O2
